US04046753
To a solution of 2.0 g. of 2-(phenylhydrazino)-2-thiazoline in 10 ml. of dry pyridine and 20 ml. of dry benzene is added dropwise 2 ml. of phenyl acetyl chloride. The resulting mixture is heated at 60°-70° C. for 30 minutes and poured into 200 ml. of water. The benzene layer is separated and the aqueous solution washed once with 20 ml. of benzene. The combined benzene solutions are washed with water and 5% sodium carbonate solution and dried with anhydrous magnesium sulfate. The benzene is evaporated to dryness and hexane is added to the residue and the resulting suspension is filtered. The solid material is washed with hexane and recrystallized from a mixture of ethyl acetate and hexane affording 2-(2-phenylacetyl-1-phenylhydrazino)-2-thiazoline, m.p. 121°-124° C.

reactant | 2-(phenylhydrazino)-2-thiazoline | C1(=CC=CC=C1)NNC=1SCCN1 | C9H11N3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | phenyl acetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | water | O | H2O
product | 2-(2-phenylacetyl-1-phenylhydrazino)-2-thiazoline | C1(=CC=CC=C1)CC(=O)NN(C1=CC=CC=C1)C=1SCCN1 | C17H17N3OS
